Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
dizziness/lightheadedness, bradycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP: Dr. ___

___ yo male, otherwise healthy, who states that overnight he woke 
up around 1 AM, and got up out of bed to urinate, and as he 
stood up he felt extremely lightheaded and dizzy.  He states 
that he had a difficult time sleeping, so he took a few "sleep 
medicines", but in the AM, woke up feeling lightheaded, dizzy, 
and fatigued.  He states he felt for his pulse and could not 
feel it, so he called the nurse to evaluate him.  He denies LOC, 
chest pains, nausea, vomiting.  He is otherwise without 
complaints.   

In the ED, his vitals were 96.8, 160/65, 38, 98%RA.  EP 
evaluated the patient, and his ECG had 2:1 conduction, and with 
carotid massage, he had no ventricular beats and became 
unconscious. He awoke with physical stimulation.  He has had no 
other symptoms since the ED. 

On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  His only 
complaint was lightheadedness and dizziness as above.

 
Past Medical History:
None
 
Social History:
___
Family History:
Family history is non-contributory.  

 
Physical Exam:
VS -  98.0  133/59  65  20  97% RA   ___ pain score
Gen: elderly male in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP approx 6 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not palpated. 
No abdominal bruits.  
Ext: No c/c. trace pedal edema.  No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
  
Pulses:  
Right: Carotid 2+ Femoral 2+   DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+   DP 2+ ___ 2+  

 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.1 RBC-4.17* Hgb-12.5* Hct-35.8* 
MCV-86 MCH-30.0 MCHC-35.0 RDW-13.8 Plt ___
___ 06:30AM BLOOD ___ PTT-34.7 ___
___ 06:30AM BLOOD Glucose-107* UreaN-22* Creat-1.0 Na-139 
K-4.3 Cl-103 HCO3-25 AnGap-15
___ 06:30AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.2

EKG demonstrated bradycardia with ventricular rate approx 40, 
appears to have AV dissociation with 2:1 AV block.  With carotid 
sinus massage, had approx 3 seconds sinus pause, then sinus rate 
50-60 ___onduction for approx 10 seconds, then resumed 
sinus rhythm.    No prior ECG available for comparison.

Telemetry had no further events besides occasional PVCs.  He 
remained in normal sinus rhythm
 
Brief Hospital Course:
Patient is a ___ yo male with no significant medical history who 
presents with symptomatic AV disassociation with ventricular 
rate approx 40 now in sinus rhythm 
   
#. Rhythm: The patient was admitted for symptomatic AV 
disassociation consistent with AV nodal dysfunction.  The 
patient underwent carotid sinus massage in the ED by the 
cardiology fellow and subsequently developed approximately 10 
seconds of no ventricular beats.  He then returned to normal 
sinus rhythm, and remained in that rhythm for the remainder of 
his hospitalization.  The patient was not any medications to 
suggest drug cause.  There was no evidence of ischemia on his 
ECG.  The patient had no other symptoms, and denies previous 
symptoms similar to his presentation.  The Electrophysiology 
service recommended that he have a pacemaker placed, but the 
patient refused.  We also discussed our recommendation with the 
health care proxy, who also agreed with pacemaker placement, but 
respected the patient's wishes since the patient does have 
decision making capacity and is functional at home.  We 
recommended that the patient have ___ of Hearts monitor prior 
to discharge, and the patient be evaluated by his PCP and to 
discuss whether he'd like a pacemaker placed as an outpatient.  
He agreed to this plan.  He will followup with Dr. ___ in 
clinic to review the results of his ___ monitor and to discuss 
pacemaker placement.  The patient was advised that he should not 
drive under any circumstance.  Also, we informed the patient 
that if this were to occur again in the future, it may be fatal. 
 The patient understands this risk, and will discuss further 
options with his family and PCP as an outpatient. The patient 
will be discharged home on a stool softener to prevent increased 
vagal tone during bowel movements.  

#. Code:  FULL CODE (d/w patient- does not want long term life 
support, but is willing to have shock/brief intubation if 
necessary)

#. Contact: HCP = ___ ___ or cell: ___
 
#. Dispo:  The patient will be discharged to his assisted living 
facility with followup from his PCP's office on ___.  He 
will followup in ___ clinic with Dr. ___.  He will be 
discharged home on ___ of hearts monitor, and he will be 
instructed on the proper use. 
 
Medications on Admission:
ASA 81 mg daily occasionally
Glucosamine/Chondroitin
fish oil
Vitamin A&D occasionally 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.
Disp:*60 Capsule(s)* Refills:*2*
2. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: AV disassociation

 
Discharge Condition:
stable, symptom free.  will be discharged home with ___ of 
hearts monitor. 

 
Discharge Instructions:
You were admitted for lightheadeness and dizziness.  In the ED, 
you were found to have an abnormal heart rhythm called AV 
disassociation, therefore you were evaluated by the 
electrophysiologists.  During their evaluation, you converted to 
a normal sinus rhythm and remained symptoms free.  We 
recommended that you have a pacemaker placed, but at this time 
you refused.  Please be advised that if you develop this 
arrhythmia again, it may be fatal.  You will be discharged home 
with ___ of hearts monitor to record any events that you may 
have at home.  Please be advised that you are NOT to drive under 
ANY circumstance.  

Please take all medications as prescribed.  Please keep all 
scheduled appointments.  You will be seen by someone from Dr. 
___ office on ___ to discuss further options with 
you.  You will also be seen in Dr. ___ to discuss 
the results of your ___ hearts monitor and possible 
pacemaker placement in the future.

If you develop any of the following concerning symptoms, please 
call your PCP or go to the ED: chest pains, shortness of breath, 
lightheadedness or dizziness, fevers, chills, nausea or 
vomiting.
 
Followup Instructions:
___